US06429214B1
(1-Ethyl-7-methoxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acetic acid methyl ester
A slurry of (7-methoxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acetic acid methyl ester (5.0 g, 20 mmol) in tetrahydrofuran (40 mL) was treated with potassium bis(trimethylsilyl)amide (0.5 M in toluene, 41 mL, 21 mmol) at 25° C. and the mixture heated to reflux. After 1 h at reflux, ethyl iodide (16 mL, 200 mmol) was added. After an additional 3 h at reflux, the cooled mixture was quenched with 0.1N aqueous HCl (50 mL) and concentrated in vacuo. Water (200 mL) was added and the aqueous phase extracted with chloroform (3×200 mL). The extracts were dried (K2CO3) and concentrated in vacuo to give the crude product (5.3 g). Flash chromatography (225 g silica; 2:1, then 1:1 hexane-ether, then 100% ether) gave the title compound (4.4 g, 79% yield) as a white solid.

reactant | (7-methoxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acetic acid methyl ester | 20 mmol, 5.0 g | COC(CC=1C(NC2=CC(=CC=C2C1)OC)=O)=O | C13H13NO4
reactant | potassium bis(trimethylsilyl)amide | 21 mmol, 0.5 M, 41 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | ethyl iodide | 200 mmol, 16 mL | C(C)I | C2H5I
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (1-Ethyl-7-methoxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acetic acid methyl ester | 4.4 g, 79% yield | COC(CC=1C(N(C2=CC(=CC=C2C1)OC)CC)=O)=O | C15H17NO4
